US04680298
4-Hydroxy-3-(4-methanesulfonyloxybutyl)-1-phenyl-1,8-naphthyridin-2(1H)-one
4-Hydroxy-3-(4-hydroxybutyl)-1-phenyl-1,8-naphthyridin-2(1H)-one (10 g.) was dissolved, with stirring, in Eaton's Reagent (10% P2O5 in methanesulfonic acid; 50 ml.) under a nitrogen atmosphere. The solution was heated to 55° C. where it was held for 31/2 hr. It was then cooled and poured into a water/ice mixture. After stirring for several hours, the aqueous mixture was extracted (3×) with ethyl acetate (250 ml. each). The organic extract was separated, dried (Na2SO4), filtered and evaporated. The residue was stirred with a small volume of cold isopropanol and filtered to yield a brown solid, the mono-mesylate, which was used without further purification in Example 7.

reactant | 4-Hydroxy-3-(4-hydroxybutyl)-1-phenyl-1,8-naphthyridin-2(1H)-one | 10 g | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)CCCCO | C18H18N2O3
reactant | Eaton's Reagent | 50 ml | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
product | 4-Hydroxy-3-(4-methanesulfonyloxybutyl)-1-phenyl-1,8-naphthyridin-2(1H)-one | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)CCCCOS(=O)(=O)C | C19H20N2O5S
